US07148246B2
2-(4-Fluorophenyl)-5-methyl4-[cis-3-(2-nitrobenzyloxy)cyclohexyloxymethyl]oxazole
0.1 g of 3-[2-(4-fluorophenyl)-5-methyloxazol-4-ylmethoxy]cyclohexanol is dissolved in 3 ml of acetonitrile, and 0.21 g of 2-nitrobenzyl bromide and 0.36 g of tetrabutylammonium iodide are added. 0.57 ml of cesium hydroxide solution (50% strength solution in water) is added dropwise, and the two-phase mixture is stirred vigorously at room temperature, for 12 hours. The reaction is checked (LCMS), showing the formation of the desired product, in addition to unreacted alcohol 3-[2-(4-fluorophenyl)-5-methyloxazol4-ylmethoxy]cyclohexanol. By addition of a further 0.2 g of 2-nitrobenzyl bromide (2 eq) at room temperature and stirring at room temperature for a further 12 hours, the reaction is terminated by addition of 2 ml of 1N hydrochloric acid and the mixture is extracted with ethyl acetate (2×10 ml). The combined organic phases are washed with saturated sodium chloride solution and dried over magnesium sulfate. Purification by HPLC gives 0.05 g of the compound 2-(4-fluorophenyl)-5-methyl4-[cis-3-(2-nitrobenzyloxy)cyclohexyloxymethyl]oxazole as a clear colorless oil.

reactant | 3-[2-(4-fluorophenyl)-5-methyloxazol-4-ylmethoxy]cyclohexanol | 0.1 g | FC1=CC=C(C=C1)C=1OC(=C(N1)COC1CC(CCC1)O)C | C17H20FNO3
reactant | 2-nitrobenzyl bromide | 0.21 g | [N+](=O)([O-])C1=C(CBr)C=CC=C1 | C7H6BrNO2
reactant | cesium hydroxide | 0.57 ml | [OH-].[Cs+]
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
catalyst | tetrabutylammonium iodide | 0.36 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(4-Fluorophenyl)-5-methyl4-[cis-3-(2-nitrobenzyloxy)cyclohexyloxymethyl]oxazole | FC1=CC=C(C=C1)C=1OC(=C(N1)CO[C@@H]1C[C@@H](CCC1)OCC1=C(C=CC=C1)[N+](=O)[O-])C | C24H25FN2O5
